************************************************************************
* auCdl Netlist:
* 
* Library Name:  REF_GEN
* Top Cell Name: BG_STARTUP_fL2
* View Name:     schematic
* Netlisted on:  Jun 20 14:49:08 2026
************************************************************************

.INCLUDE  /opt/pdk/lf11/PDK_LF11ISi_V1_3_2/tools/setup/subckt.cdl
*.BIPOLAR
*.RESI = 2000 
*.RESVAL
*.CAPVAL
*.DIOPERI
*.DIOAREA
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: REF_GEN
* Cell Name:    BG_STARTUP_fL2
* View Name:    schematic
************************************************************************

.SUBCKT BG_STARTUP_fL2 BIAS GNDA PD PDN PRN PRN_TRIGGER VDDA VREF
*.PININFO BIAS:B GNDA:B PD:B PDN:B PRN:B PRN_TRIGGER:B VDDA:B VREF:B
MM27 net6 net6 STARTUP_REF GNDA nmos1v2hvt W=1u L=10u m=1 nf=1
MM25 PRN_TRIGGER net26 GNDA GNDA nmos1v2hvt W=4u L=4u m=1 nf=1
MM24 net26 net26 GNDA GNDA nmos1v2hvt W=4u L=4u m=1 nf=1
MM26 STARTUP_REF STARTUP_REF GNDA GNDA nmos1v2hvt W=1u L=10u m=1 nf=1
MM44 PRN_TRIGGER PD GNDA GNDA nmos1v2hvt W=1u L=500n m=1 nf=1
MM37 net26 PD GNDA GNDA nmos1v2hvt W=1u L=500n m=1 nf=1
MM49 PRN net8 GNDA GNDA nmos1v2hvt W=1u L=200n m=1 nf=1
MM47 net8 net7 GNDA GNDA nmos1v2hvt W=1u L=200n m=1 nf=1
MM45 net7 PRN_TRIGGER GNDA GNDA nmos1v2hvt W=4u L=200n m=1 nf=2
MM1 VDDA VDDA VDDA VDDA pmos1v2hvt W=8u L=1u m=2 nf=1
MM0 VDDA VDDA VDDA VDDA pmos1v2hvt W=8u L=500n m=4 nf=1
MM38 BIAS PDN VDDA VDDA pmos1v2hvt W=2u L=500n m=1 nf=1
MM35 net6 BIAS VDDA VDDA pmos1v2hvt W=8u L=4u m=1 nf=1
MM23 BIAS BIAS VDDA VDDA pmos1v2hvt W=8u L=4u m=2 nf=1
MM21 net25 BIAS VDDA VDDA pmos1v2hvt W=8u L=4u m=2 nf=1
MM20 net26 STARTUP_REF net25 VDDA pmos1v2hvt W=8u L=2u m=10 nf=1
MM19 PRN_TRIGGER VREF net25 VDDA pmos1v2hvt W=8u L=2u m=10 nf=1
MM50 PRN net8 VDDA VDDA pmos1v2hvt W=2u L=200n m=1 nf=1
MM48 net8 net7 VDDA VDDA pmos1v2hvt W=2u L=200n m=1 nf=1
MM46 net7 PRN_TRIGGER VDDA VDDA pmos1v2hvt W=2u L=500n m=1 nf=1
.ENDS

